US04729781
n-Butyl[(3,6-dichloro-2-methoxybenzoyl)aminooxy]acetate
To 161.8 g. of methyl[(3,6-dichloro-2-methoxybenzoyl) aminooxy]acetate was added 80 g. of n-butyl alcohol, 600 ml. of toluene, and 9.5 g. of titanium n-butoxide. The mixture was stirred and heated to 85° C. for 2 hours to drive off a methanol/toluene mixture. The heat was then maintained at 95°-100° C. to distill off n-butanol/toluene. The reaction mixture was cooled to 40° C. and 150 ml. of 1 M. HCl added. The mixture was then washed with 1 M. HCl, water, then saturated NaHCO3 solution, and then dried over MgOS4, filtered, and evaporated in vacuo to yield the title product as a white solid, m.p. 68°-71° C.

reactant | methyl[(3,6-dichloro-2-methoxybenzoyl) aminooxy]acetate | COC(CONC(C1=C(C(=CC=C1Cl)Cl)OC)=O)=O | C11H11Cl2NO5
reactant | n-butyl alcohol | C(CCC)O | C4H10O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | titanium n-butoxide | CCCCO.CCCCO.CCCCO.CCCCO.[Ti]
solvent | methanol toluene | CO.C1(=CC=CC=C1)C
product | n-Butyl[(3,6-dichloro-2-methoxybenzoyl)aminooxy]acetate | C(CCC)OC(CONC(C1=C(C(=CC=C1Cl)Cl)OC)=O)=O | C14H17Cl2NO5
